US09102591B2
To a solution of 2-(2-methylpyrimidin-5-yl)acetonitrile (1 g, 7.52 mmol) and 4,4-difluorocyclohexanone (1.1 g, 8.27 mmol) in 1,4-dioxane (40 mL) was added t-BuOK (0.8 g, 8.27 mmol) in two portions. After the addition was completed, the reaction was heated to 60° C. and stirred overnight. The reaction solution was cooled to 0° C., quenched by saturated NH4Cl aq. solution and extracted with EtOAC (50 m×3). The combined organic layer was washed with brine, dried over Na2SO4 and concentrated to get the crude product, which was purified by column chromatography on silica gel (Petroleum ether: EtOAc=4:1˜2:1) to afford 2-(4,4-difluorocyclohexylidene)-2-(2-methylpyrimidin-5-yl)acetonitrile (440 mg, yield: 23.5%). 1H NMR (CDCl3 varian 400 MHz): δ8.61 (s, 2H), 2.97 (t, J=8.0 Hz, 2H), 2.80 (s, 3H), 2.55 (t, J=8.0 Hz, 2H), 2.27-2.17 (m, 2H), 2.09-1.98 (m, 2H).

reactant | 2-(2-methylpyrimidin-5-yl)acetonitrile | 7.52 mmol, 1 g | CC1=NC=C(C=N1)CC#N | C7H7N3
reactant | 4,4-difluorocyclohexanone | 8.27 mmol, 1.1 g | FC1(CCC(CC1)=O)F | C6H8F2O
reactant | t-BuOK | 8.27 mmol, 0.8 g | CC(C)(C)[O-].[K+]
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | 2-(4,4-difluorocyclohexylidene)-2-(2-methylpyrimidin-5-yl)acetonitrile | 440 mg, yield: 23.5% | FC1(CCC(CC1)=C(C#N)C=1C=NC(=NC1)C)F | C13H13F2N3
